US05559230
5-Methylidene-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2.84 g) is suspended in tetrahydrofuran (50 ml) and thereto is added 1M solution of boran-tetrahydrofuran complex in tetrahydrofuran (43 ml). The mixture is stirred at room temperature for 6 hours. After completion of the reaction, the reaction solution is cooled with ice, and thereto is added water (70 ml). After termination of the evolution of hydrogen gas, to the reaction solution are added 25% aqueous sodium hydroxide solution (7.0 ml), and subsequently 31% aqueous hydrogen peroxide solution (4.7 ml), and the mixture is heated with stirring at 50° C. for 1 hour. After cooling, to the reaction solution is added saturated saline solution and the tetrahydrofuran layer is collected, washed with saturated saline solution and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is recrystallized from ethyl acetate/n-hexane to give 5-hydroxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.96 g) as white powder, m.p. 202°-206° C.

reactant | 5-Methylidene-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2.84 g | C=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H24N2O2
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 7.0 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 4.7 ml | OO | H2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 43 ml | O1CCCC1 | C4H8O
solvent | water | 70 ml | O | H2O
product | 5-hydroxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.96 g | OCC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H26N2O3
